US07361763B2
A mixture of (3-(3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone (40 mg, 0.068 mmol), 2-fluorophenylboronic acid (18 mg, 0.128 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (3.9 mg, 0.005 mmol) and sodium carbonate (2M aqueous solution, 0.102 mL, 0.204 mmol) in acetonitrile (1 mL) was heated in a Personal microwave at 90° C. for 30 min. The resulting mixture was diluted with water and extracted with ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered and concentrated to dryness to afford crude (3-(3-(2-fluorophenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone, which was used in step 5 without further purification.

reactant | (3-(3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone | 0.068 mmol, 40 mg | IC1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C25H22IN3O4S
reactant | 2-fluorophenylboronic acid | 0.128 mmol, 18 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | dichloromethane | 0.005 mmol, 3.9 mg | ClCCl | CH2Cl2
reactant | sodium carbonate | 0.204 mmol, 2M, 0.102 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | (3-(3-(2-fluorophenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)(morpholino)methanone | FC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C31H26FN3O4S
